datasets/10k_Mayr_OG.csv
SMILES Labelled
"CC1(C)C[O:12][B-:11](C2=CC=C(C(F)(F)F)C=C2)([CH:10](C)C2=CC=CC=C2)[O:62]C1.FC(F)(F)CN(C1=CC=CC=C1)[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](N(CC(F)(F)F)C3=CC=CC=C3)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1>>CC1(C)C[O+:12]=[B-:11](C2=CC=C(C(F)(F)F)C=C2)[O:62]C1.C[CH:10](C1=CC=CC=C1)[CH:20]([C:31]1=[CH:32][CH:33]=[C:34](N(CC(F)(F)F)C2=CC=CC=C2)[CH:35]=[CH:36]1)[C:41]1=[CH:42][CH:43]=[C:44](N(CC(F)(F)F)C2=CC=CC=C2)[CH:45]=[CH:46]1 10,11=10,20;12=11,12"
"C1C[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)CCO1.[CH:10](=[C:11]=[N-:12])[N+:61]1=[CH:62][CH:63]=[CH:64][CH:73]=[CH:72]1>>C1C[N:23]([CH:22]=[CH:21][CH:20]([CH:10]([C:11]#[N:12])[N+:61]2=[CH:62][CH:63]=[CH:64][CH:73]=[CH:72]2)[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)CCO1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1CC[C:22](=[O:23])[CH:21]=[CH:20]C1.CCC(CO)[NH2:10]>>CCC(CO)[NH2+:10][CH:20]1CCCC[C:22]([O-:23])=[CH:21]1 10=20;20,21=21,22;22,23=23"
"C[C:13]1=[CH:12][CH:11]=[CH:10][CH:61]=[CH:62]1.C[C:21](=[CH:20]\[C:31](=[O:32])[N:33](C)C)/[N:22]=[N:23]/[C:24](NC1=CC=CC=C1)=[O:25]>>C[C+:13]1[CH:12]=[CH:11][CH:10]([CH:20]([C:21](C)=[N:22][N:23]=[C:24](NC2=CC=CC=C2)[O-:25])[C:31](=[O:32])[N:33](C)C)[CH:61]=[CH:62]1 10,11=10,20;12,13=11,12;20,21=21,22;22,23=23,24;24,25=25"
"CC12C3(C)C4(C)C5(C)C1(C)[W-3:11]2345(C#[O+])(C#[O+])(C#[O+])[H:10].C[N+:21](C)=[CH:20]Cl>>CC12C3(C)C4(C)C5(C)C1(C)[W-2:11]2345(C#[O+])(C#[O+])C#[O+].C[N:21](C)[CH:20](Cl)[H:10] 10,11=10,20;20,21=21"
"O=S(=O)(C(F)(F)F)[C:21]1=[CH:20][C:41]2=[N+:42]([O-])O[N:35]=[C:34]2[C:33]([N+:22]([O-])=[O:23])=[CH:32]1.OC(C1=CC=CC=C1)(C1=CC=CC=C1)[C@@H]1CCC[NH:10]1>>O=S(=O)(C(F)(F)F)[C:21]12[CH:20]([NH+:10]3CCC[C@H]3C(O)(C3=CC=CC=C3)C3=CC=CC=C3)[C:41]3=[N+:42]([O-])O[N:35]=[C:34]3[C:33](=[CH:32]1)[N+:22]2([O-])[O-:23] 10=20;20,21=21,22;22,23=23"
"C[C:10](C)=[CH:11][N:12]1CCOCC1.FC(F)(F)[S:20][N:21]1[C:22](=[O:23])C2=C(C=CC=C2)[C:32]1=[O:33]>>C1=CC2=C(C=C1)[C:32](=[O:33])[N:21]=[C:22]2[O-:23].C[C:10](C)([CH:11]=[N+:12]1CCOCC1)[S:20]C(F)(F)F 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1CC[NH:10]C1.C[CH:20]=[N+:21]1C2=CC=CC=C2C2=C1C=CC=C2>>C[CH:20]([NH+:10]1CCCC1)[N:21]1C2=CC=CC=C2C2=C1C=CC=C2 10=20;20,21=21"
"F[C:33]1=[CH:34][C:35](F)=[CH:36][C:31]([CH+:20][C:41]2=[CH:42][C:43](F)=[CH:44][C:45](F)=[CH:46]2)=[CH:32]1.[O+]#C[W-3:11]1234(C#[O+])(C#[O+])([H:10])C5C1C21C=CC=CC13C54>>F[C:33]1=[CH:34][C:35](F)=[CH:36][C:31]([CH:20]([H:10])[C:41]2=[CH:42][C:43](F)=[CH:44][C:45](F)=[CH:46]2)=[CH:32]1.[O+]#C[W-2:11]1234(C#[O+])(C#[O+])C5C1C21C=CC=CC13C54 10,11=10,20"
"CC(C)(C)[C:23]1=[CH:22][C:21](=[CH:20][C:41]2=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]2)[CH:32]=[C:33](C(C)(C)C)[C:24]1=[O:25].COC(=O)CC[C:11](=[CH2:10])[N:12](O[Si](C)(C)C)O[Si](C)(C)C>>COC(=O)CC[C:11]([CH2:10][CH:20]([C:21]1=[CH:22][C:23](C(C)(C)C)=[C:24]([O-:25])[C:33](C(C)(C)C)=[CH:32]1)[C:41]1=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]1)=[N+:12](O[Si](C)(C)C)O[Si](C)(C)C 10,11=10,20;12=11,12;20,21=21,22;22,23=23,24;24,25=25"
"C1C[C:63]2=[C:62]([CH:11]=[CH:10]1)[CH:67]=[CH:66][CH:65]=[CH:64]2.Cl[C:20]1=[C:21](Cl)[C:22](=[O:23])[C:32](=[O:33])[C:31](Cl)=[C:30]1Cl>>Cl[C:20]1([CH:10]2CC[C:63]3=[C:62]([CH+:11]2)[CH:67]=[CH:66][CH:65]=[CH:64]3)[C:21](Cl)=[C:22]([O-:23])[C:32](=[O:33])[C:31](Cl)=[C:30]1Cl 10,11=10,20;20,21=21,22;22,23=23"
"C1=CC=C([C:10](=[C:11]=[N-:12])[S:61](C2=CC=CC=C2)(=[O:62])=[O:72])C=C1.CO[C:44]1=[CH:43][CH:42]=[C:41](/[CH:20]=[N:21]/[S:32](C2=CC=C(C)C=C2)(=[O:33])=[O:34])[CH:46]=[CH:45]1>>CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([C:10](C2=CC=CC=C2)([C:11]#[N:12])[S:61](C2=CC=CC=C2)(=[O:62])=[O:72])[N-:21][S:32](C2=CC=C(C)C=C2)(=[O:33])=[O:34])[CH:46]=[CH:45]1 10,11=10,20;12=11,12;20,21=21"
"C[C:21]1=[CH:20]CC[C:22]1=[O:23].C[N:14](C)[C:13]1=[CH:12][CH:11]=[N:10][CH:61]=[CH:62]1>>C[N+:14](C)=[C:13]1[CH:12]=[CH:11][N:10]([CH:20]2CC[C:22]([O-:23])=[C:21]2C)[CH:61]=[CH:62]1 10,11=10,20;12,13=11,12;14=13,14;20,21=21,22;22,23=23"
"CC[O:61]/[C:11](=[C:10](\C)[C:72](=[O:73])[O:83]CC)[O-:12].FC(F)(F)[C:53]1=[CH:54][CH:55]=[CH:56][C:51]([C+:20]([C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)=[CH:52]1>>CC[O:61][C:11]([C:10](C)([C:20]([C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)([C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)[C:51]1=[CH:52][C:53](C(F)(F)F)=[CH:54][CH:55]=[CH:56]1)[C:72](=[O:73])[O:83]CC)=[O:12] 10,11=10,20;12=11,12"
"C1=CC=C(/[C:11](=[CH:10]/[N+:61]2=[CH:62][CH:63]=[CH:64][CH:73]=[CH:72]2)[O-:12])C=C1.CN(C)C1=CC=C(C2C3[CH:20](C4=CC=C(N(C)C)C=C4)[Pd-:21]23([P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1>>CN(C)C1=CC=C(C2C([CH:20](C3=CC=C(N(C)C)C=C3)[CH:10]([C:11](C3=CC=CC=C3)=[O:12])[N+:61]3=[CH:62][CH:63]=[CH:64][CH:73]=[CH:72]3)[Pd-2:21]2([P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1 10,11=10,20;12=11,12;20,21=21"
